US04025630
1-[4-(Morpholino)butyryloxy]-3-(4-fluorophenyl-1-methylbutyl)-trimethyl-6a,7,8,10a-tetrahydrodibenzo [b,d]pyran hydrobromide
3.54 g. (11.27 mmole) of 1-Hydroxy-3-(4-fluorophenyl-1-methylbutyl)-trimethyl-6a,7,8,10a-tetrahydrodibenzo[b,d] pyran, 2.86 g. (11.27 mmole) of γ-morpholinobutyric acid hydrobromide and 2.50 g. (12.12 mole) of dicyclohexylcarbodiimide are combined in 200 ml. of methylene chloride and stirred at room temperature for 24 hours. The reaction mixture is cooled and the by-product of dicyclohexylurea is removed by filtration. The volume of methylene chloride is removed by filtration. The volume of methylene chloride is reduced and 25 ml. of cyclohexane is added. The mixture is cooled and the small amount of solid which forms is removed by filtration. All solvents are removed on a rotary evaporator and the residue is dried in vacuo. The resulting material is dissolved in a mixture of benzene and ether and placed in cold storage to yield the crystalline product.

reactant | 1-Hydroxy-3-(4-fluorophenyl-1-methylbutyl)-trimethyl-6a,7,8,10a-tetrahydrodibenzo[b,d] pyran | 11.27 mmole | OC1=C(C(=C(C=2OC(C3C(C21)C=CCC3)C)C)C(CCC)(C)C3=CC=C(C=C3)F)C | C27H33FO2
reactant | γ-morpholinobutyric acid hydrobromide | 11.27 mmole | Br.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 12.12 mole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[4-(Morpholino)butyryloxy]-3-(4-fluorophenyl-1-methylbutyl)-trimethyl-6a,7,8,10a-tetrahydrodibenzo [b,d]pyran hydrobromide | Br.O1CCN(CC1)CCCC(=O)OC1=C(C(=C(C=2OC(C3C(C21)C=CCC3)C)C)C(CCC)(C)C3=CC=C(C=C3)F)C | InChI=1S/C35H46FNO4.BrH/c1-6-17-35(5,26-13-15-27(36)16-14-26)32-23(2)33-31(29-11-8-7-10-28(29)25(4)40-33)34(24(32)3)41-30(38)12-9-18-37-19-21-39-22-20-37;/h8,11,13-16,25,28-29H,6-7,9-10,12,17-22H2,1-5H3;1H
